US05532236
c. 1-Hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1 H,4H)-dione
A solution of 19 g crude 4-ethoxalylamino-2-(2-methyl-1H-imidazol-1-yl)-5-nitrobenzotrifluoride in 500 ml 96% ethanol was hydrogenated in a Parr hydrogenation apparatus at 28.12 kPa (40 psi) by using 2 g 5% Pd-C as a catalyst. The catalyst plus precipitated product was filtered off and washed with ethanol. The filter cake was washed several times with 1N aqueous potassium hydroxide. The combined aqueous filtrates were added 4N hydrochloric acid to pH=4 to give the title compound (9.5 g; 58%). M.p.>300° C.

reactant | 4-ethoxalylamino-2-(2-methyl-1H-imidazol-1-yl)-5-nitrobenzotrifluoride | 19 g | C(=O)(C(=O)OCC)NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)N1C(=NC=C1)C | C15H13F3N4O5
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd-C | 2 g | [Pd] | Pd
product | 1-Hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1 H,4H)-dione | 9.5 g, 58% | ON1C(C(NC2=CC(=C(C=C12)C(F)(F)F)N1C(=NC=C1)C)=O)=O | C13H9F3N4O3
